US04876284
Example E2. cis-7-Hydroxy-1-methyl-2-(di-n-propylamino) tetralin hydrobromide
cis-7-Methoxy-1-methyl-2-(di-n-propylamino) tetralin hydrochloride (500 mg, 1.60 mmol) was heated in 48% aqueous HBr (5ml) for 3 h at 140° C. under N2. Water (20 ml) was added and the volatiles were evaporated in vacuo. The faint orange-coloured residue was treated with abs. ethanol twice (with intervening evaporation). The dry residue was dissolved in methanol and the solution was treated with active charcoal. After filtration the solvent was evaporated, whereupon the residue was dissolved in methanol and ethyl ether was added. The obtained white crystals were recrystallized from MeOH-ethyl ether yielding the desired product (450 mg, 84% yield), m.p. 195°-196° C.

reactant | cis-7-Methoxy-1-methyl-2-(di-n-propylamino) tetralin hydrochloride | 1.60 mmol, 500 mg | Cl.COC1=CC=C2CC[C@@H]([C@@H](C2=C1)C)N(CCC)CCC
reactant | Water | 20 ml | O | H2O
reactant | MeOH ethyl ether | CO.C(C)OCC
reactant | HBr | 5ml | Br | BrH
product | cis-7-Hydroxy-1-methyl-2-(di-n-propylamino) tetralin hydrobromide | 450 mg, 84% yield | Br.OC1=CC=C2CC[C@@H]([C@@H](C2=C1)C)N(CCC)CCC | InChI=1S/C17H27NO.BrH/c1-4-10-18(11-5-2)17-9-7-14-6-8-15(19)12-16(14)13(17)3;/h6,8,12-13,17,19H,4-5,7,9-11H2,1-3H3;1H/t13-,17+;/m1./s1
